US06696474B2
Synthesis of Toluene-4-sulfonic Acid 2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethyl Ester (1-1).
To a solution of 2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethanol (12.5 g, 61 mmol) in dichloromethane (200 mL) at −20° C. under N2 atmophere was added triethylamine (26 mL, 184 mmol) and catalytic amount of 4-dimethylamino pyridine (50 mg). This solution was then treated with toluenesulfonyl chloride (14.1 g, 73.8 mmol) and the reaction was allowed to equilibrate to 23° C. over 16 hours. Reaction was washed with water, 5% Na2CO3, saturated NH4Cl, and brine. Solvent was removed in vacuo and crude tosylate 1 (21.3 g) was carried on to the next step without further purification. M+1=358.2

reactant | 2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethanol | 61 mmol, 12.5 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCO | C12H13NO2
reactant | triethylamine | 184 mmol, 26 mL | C(C)N(CC)CC | C6H15N
reactant | toluenesulfonyl chloride | 73.8 mmol, 14.1 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylamino pyridine | 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Toluene-4-sulfonic Acid 2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethyl Ester | CC1=C(N=C(O1)C1=CC=CC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C19H19NO4S
